US07060827B2
2,4-Dichloropyrimidine (45 mg, 0.30 mmol) was dissolved in a mixture of MeOH (1 ml) and H2O (0.1 ml). 3-amino-4-methylaniline (146 mg, 1.2 mmol) was added and the mixture was refluxed for 20 hours (70° C. oil-bath temperature). The mixture was cooled to 22° C., concentrated to dryness under reduced pressure and subjected to column chromatography on silica gel (CHCl3-Acetone, 2:1) to give N2,N4-bis(3-amino-4-methylphenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.13 (s, 1H), 6.95 (d, 2H, J=7.5 Hz), 6.82 (d, 2H, J=1.8 Hz), 6.60 (dd, 2H, J=1.8, 7.5 Hz), 6.17 (s, 1H), 2.12 (s, 6H); LCMS purity: 97.3%; MS (m/e): 321.09 (M+, 100).

reactant | 2,4-Dichloropyrimidine | 0.30 mmol, 45 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-amino-4-methylaniline | 1.2 mmol, 146 mg | NC=1C=C(N)C=CC1C | C7H10N2
solvent | MeOH | 1 ml | CO | CH4O
solvent | H2O | 0.1 ml | O | H2O
product | N2,N4-bis(3-amino-4-methylphenyl)-2,4-pyrimidinediamine | NC=1C=C(C=CC1C)NC1=NC=CC(=N1)NC1=CC(=C(C=C1)C)N | C18H20N6
